US06566535B1
Ethyl 7-(4-propoxyethoxyphenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxlate (11 g, 24.7447 mmol) was dissolved in 110 ml of tetrahydrofuran and 55 ml of methanol, and then 93.5 ml of water was added. After adding potassium carbonate (6.84 g, 49.49 mmol), the mixture was heated under reflux for 4.5 hours. Under reflux, 39.6 ml of a 3N hydrochloric acid and 40 ml of water were dropped. After cooling, the mixture was stirred for 1 hour while cooling in ice. After filtration, the residue was washed with 88 ml of water. After vacuum drying (40° C.), 9.4 g (Yield 91.2%) of 7-(4-propoxyethoxyphenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid was obtained as pale yellowish white crystals.

reactant | Ethyl 7-(4-propoxyethoxyphenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxlate | 24.7447 mmol, 11 g | C(CC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OCC)C1 | C24H28O6S
reactant | water | 93.5 ml | O | H2O
reactant | potassium carbonate | 49.49 mmol, 6.84 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 3N | Cl | ClH
reactant | water | 40 ml | O | H2O
solvent | tetrahydrofuran | 110 ml | O1CCCC1 | C4H8O
solvent | methanol | 55 ml | CO | CH4O
product | 7-(4-propoxyethoxyphenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid | 9.4 g, Yield 91.2% | C(CC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)O)C1 | C22H24O6S
